US07557114B2
4′-Fluoro-4-methanesulfonyl-biphenyl-2-carboxylic acid
A mixture of 6.1 mmol 2-Iodo-5-methanesulfonyl-benzoic acid (example B19(b)), 12.2 mmol 4-fluorobenzeneboronic acid, 18.4 mmol sodium carbonate and 0.3 mmol palladium (II) acetate in 30 ml water was stirred at room temperature for 48 hours. The mixture was filtered and the filtrate was acidified with HCl 37%. The mixture was stirred at room temperature for 30 minutes. The solid was filtered, washed with water and dried to provide the title compound (92%). Yellow solid. MS (m/e): 293.2 ([M−H], 100%).

reactant | 2-Iodo-5-methanesulfonyl-benzoic acid | 6.1 mmol | IC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C8H7IO4S
reactant | 4-fluorobenzeneboronic acid | 12.2 mmol | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 18.4 mmol | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 30 ml | O | H2O
catalyst | palladium (II) acetate | 0.3 mmol | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4′-Fluoro-4-methanesulfonyl-biphenyl-2-carboxylic acid | 92% | FC1=CC=C(C=C1)C=1C(=CC(=CC1)S(=O)(=O)C)C(=O)O | C14H11FO4S
